US07678818B2
To a vigorously stirred solution of 311 mg of potassium tert-butylate (2.77 mmol) in THF (5 ml) were slowly added 5 ml of a THF-solution of 300 mg of ethyl isocyanoacetate (2.52 mmol) and 250 mg of cyclopropyl isothiocyanate (2.52 mmol) at −20° C. The mixture was stirred for 15 min at −20° C. and was then allowed to warm to 0° C. in 1.5 h before 0.3 ml of acetic acid were added. The reaction mixture was concentrated in vacuo to give a residue which was purified by flash column chromatography (heptane/ethyl acetate 95:5 to 75:25) to give 5-cyclopropylamino-thiazole-4-carboxylic acid ethyl ester (198 mg, 37%) as a yellow oil. MS (ISP) 213.1 (M+H)+.

reactant | potassium tert-butylate | 2.77 mmol, 311 mg | CC(C)(C)[O-].[K+]
reactant | ethyl isocyanoacetate | 2.52 mmol, 300 mg | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | cyclopropyl isothiocyanate | 2.52 mmol, 250 mg | C1(CC1)N=C=S | C4H5NS
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 5-cyclopropylamino-thiazole-4-carboxylic acid ethyl ester | 198 mg, 37% | C(C)OC(=O)C=1N=CSC1NC1CC1 | C9H12N2O2S
